US04045209
40.5 g of sulfuryl chloride were slowly added at -30° C. to 45 g of diisopropyl disulfide and 320 ml of methylene chloride, and after raising the temperature to -10° C., the mixture was stirred at this temperature for 10 minutes. A solution of 66 g of N-methyl-N'-(dichlorophenyl)-urea in 420 ml of pyridine was slowly added at -30° C. to the said solution of isopropyl sulfenyl chloride formed above and the mixture was stirred for 5 hours at -20° C. and then for 17 hours at 0° C. The mixture was added to a water-methylene chloride-hydrochloric acid mixture and was stirred and decanted. The organic phase was washed with water, dried and concentrated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with a 9-1 benzene-ethyl acetate mixture. The product was added to isopropyl ether and the precipitate formed was recovered by vacuum filtration and was washed and dried to obtain 21.5 g of N-methyl-N-isopropylthio-N'-(3,4-dichlorophenyl)-urea melting at 65° C.

reactant | sulfuryl chloride | 40.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | diisopropyl disulfide | C(C)(C)SSC(C)C | C6H14S2
reactant | N-methyl-N'-(dichlorophenyl)-urea | 66 g | CNC(=O)NC1=C(C(=CC=C1)Cl)Cl | C8H8Cl2N2O
reactant | isopropyl sulfenyl chloride | C(C)(C)SCl | C3H7ClS
reactant | water methylene chloride hydrochloric acid | O.C(Cl)Cl.Cl
solvent | pyridine | 420 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 320 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-isopropylthio-N'-(3,4-dichlorophenyl)-urea | 21.5 g | CN(C(=O)NC1=CC(=C(C=C1)Cl)Cl)SC(C)C | C11H14Cl2N2OS
